* C:\projects\VariableBenchPowerSupply\LTSpice\LM723-study.asc
* Generated by LTspice 26.0.1 for Windows.
X§U1 NC_01 NC_02 N006 N005 N004 0 NC_03 N002 N001 N001 N007 LM723 ;§pnba 2)3)Inv 4)5 NInv)6 Vref)7)Vz 9)Vout 10)11)12)Comp 13
V1 N001 0 20
Q2 N001 N002 N003 0 2N3055
R2 N003 V_out 0.1
C1 N006 N007 100p
C2 N005 0 1µ
X§U5 0 N004 N005 pot Rt=1K set=0.85 ;§pnba H)L)3
X§U2 V_out 0 N006 pot Rt=10K set=.01 ;§pnba H)L)3
.model NPN NPN
.model PNP PNP
.lib C:\Users\debsa\AppData\Local\LTspice\lib\cmp\standard.bjt
.param R_a 10k
.param R_b=200k
.tran 1s
.include LM324.ti.lib
* Library below included based on ModelFile attribute of instance X§U1 (C:\projects\VariableBenchPowerSupply\LTSpice\LM723.asy)
.lib Lm723.sub
* Library below included based on ModelFile attribute of instance X§U5, X§U2 (C:\projects\VariableBenchPowerSupply\LTSpice\pot.asy)
.lib pot.lib
.backanno
.end
